US08497281B2
cis-4-(1H-Benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carboxylic acid methyl ester
The title compound is prepared from 1H-benzoimidazole-5-carboxylic acid and cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carboxylic acid methyl ester following a procedure analogous to that described in Example 1. Yield: 92% of theory; LC (method 1): tR=2.57 min; Mass spectrum (ESI+): m/z=390 [M+H]+.

reactant | 1H-benzoimidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carboxylic acid methyl ester | COC(=O)C1=CC2=C([C@H]3CCCN[C@H]3CC2)C=C1 | C15H19NO2
product | cis-4-(1H-Benzoimidazole-5-carbonyl)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline-8-carboxylic acid methyl ester | Yield: 92% | COC(=O)C1=CC2=C([C@H]3CCCN([C@H]3CC2)C(=O)C2=CC3=C(NC=N3)C=C2)C=C1 | C23H23N3O3
